US04474692
By reacting 10 g of (5-benzyloxyindan-1-yl)glycine ethyl ester with 8 g of N-carbobenzoxy-L-alanine and treating the reaction mixture as in Reference Example 4, there is obtained 5.2 g of L-alanyl-N-(5-hydroxyindan-1-yl)glycine as colorless amorphous powder.

reactant | (5-benzyloxyindan-1-yl)glycine ethyl ester | 10 g | C(C)OC(CNC1CCC2=CC(=CC=C12)OCC1=CC=CC=C1)=O | C20H23NO3
reactant | N-carbobenzoxy-L-alanine | 8 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
product | L-alanyl-N-(5-hydroxyindan-1-yl)glycine | 5.2 g | N[C@@H](C)C(=O)N(CC(=O)O)C1CCC2=CC(=CC=C12)O | C14H18N2O4
